US08445679B2
4-bromo-N-(2-(dimethylamino)ethyl)-3-methylbenzamide
A mixture of 4-bromo-3-methylbenzoic acid (430 mg), N, N-dimethylethylenediamine (180 mg), 1-ethyl-3-(3-(dimethylamino)propyl)carbodiimide hydrochloride (600 mg) and 4-dimethylaminopyridine (244 mg) in dichloromethane (20 mL) was stirred at ambient temperature for 4 hours, diluted with ethyl acetate (200 mL), washed with water and brine, and dried (Na2SO4), filtered and concentrated. The concentrate was purified by flash column chromatography with 10% ethyl acetate in ammonia saturated dichloromethane.

reactant | 4-bromo-3-methylbenzoic acid | 430 mg | BrC1=C(C=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | N, N-dimethylethylenediamine | 180 mg | CN(CCN)C | C4H12N2
reactant | 1-ethyl-3-(3-(dimethylamino)propyl)carbodiimide hydrochloride | 600 mg | Cl.C(C)N=C=NCCCN(C)C
catalyst | 4-dimethylaminopyridine | 244 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 4-bromo-N-(2-(dimethylamino)ethyl)-3-methylbenzamide | BrC1=C(C=C(C(=O)NCCN(C)C)C=C1)C | C12H17BrN2O
